US09416132B2
A mixture of 2-(trans-3-(dibenzylamino)cyclopentyl)propan-2-ol (3 g, 9.3 mmol) and Pd(OH)2 (900 mg) in EtOH (30 mL) was hydrogenated under 50 psi of H2 for 48 h at room temperature. TLC (PE:EA=5:1) showed the reaction was complete. The mixture was filtered and concentrated in vacuo to give crude 2-(trans-3-aminocyclopentyl)propan-2-ol (1 g, 77%) as a yellow oil.

reactant | 2-(trans-3-(dibenzylamino)cyclopentyl)propan-2-ol | 9.3 mmol, 3 g | C(C1=CC=CC=C1)N([C@@H]1C[C@H](CC1)C(C)(C)O)CC1=CC=CC=C1 | C22H29NO
reactant | EA | CC(OCC)=O | C4H8O2
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | Pd(OH)2 | 900 mg | [OH-].[OH-].[Pd+2]
product | 2-(trans-3-aminocyclopentyl)propan-2-ol | 1 g, 77% | N[C@@H]1C[C@H](CC1)C(C)(C)O | C8H17NO
